US03947593
A solution of 2-diethylaminoethyl chloride [obtained from 15.5 g (0.09 mole) of 2-diethylaminoethyl chloride hydrochloride] in 100 ml of toluene (dried over molecular sieves) is added to a mixture of 6.4 g (0.03 mole) of 2,7-dihydroxyfluoren-9-one and 3.3 g (0.06 mole) of sodium methoxide in 200 ml of toluene (dried over molecular sieves). This mixture is heated to reflux with stirring for three hours. Upon cooling, the mixture is filtered to remove the precipitated sodium chloride. The toluene solution is washed three times with water, then once with a saturated sodium chloride solution and dried over anhydrous magnesium sulfate. This mixture is filtered, and the filtrate acidified to Congo Red with ethereal hydrogen chloride. The solid which precipitates is filtered, recrystallized from butanone with enough methanol added to effect solution, and the product dried at 100°C for 24 hours under vacuum to give 2,7-bis(2-diethylaminoethoxy)fluoren-9-one dihydrochloride. M.P. 235°-237°C.

reactant | 2-diethylaminoethyl chloride | 0.09 mole, 15.5 g | C(C)N(CCCl)CC | C6H14ClN
reactant | 2-diethylaminoethyl chloride hydrochloride | 0.09 mole | Cl.C(C)N(CCCl)CC
reactant | 2,7-dihydroxyfluoren-9-one | 0.03 mole, 6.4 g | OC1=CC=2C(C3=CC(=CC=C3C2C=C1)O)=O | C13H8O3
reactant | sodium methoxide | 0.06 mole, 3.3 g | C[O-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2,7-bis(2-diethylaminoethoxy)fluoren-9-one dihydrochloride | Cl.Cl.C(C)N(CCOC1=CC=2C(C3=CC(=CC=C3C2C=C1)OCCN(CC)CC)=O)CC | InChI=1S/C25H34N2O3.2ClH/c1-5-26(6-2)13-15-29-19-9-11-21-22-12-10-20(30-16-14-27(7-3)8-4)18-24(22)25(28)23(21)17-19;;/h9-12,17-18H,5-8,13-16H2,1-4H3;2*1H
